US20010003749A1
Preparation of (+)-1-(2-methoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)butyl]piperazine dihydrochloride
(+)-1-(2-methoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)butyl]piperazine (15.0 g, 34.5 mmol, prepared above) was diluted with methanol (40 mL). To this solution was added HCl (9.58 g of a 26.3% solution in methanol, 69.0 mmol). The mixture began to form gelatinous-looking crystals and set up solid within minutes. To this mixture was added with vigorous stirring, diethyl ether (100 mL). The white solid was collected by suction filtration and then dried under vacuum at 45° C. for two days to provide the title compound (13.4 g, 76%) as a white solid; mp(DSC)=195.58° C.

reactant | (+)-1-(2-methoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)butyl]piperazine | 34.5 mmol, 15.0 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C)(C1=CC=CC=C1)C(=O)C1CCCCC1 | C28H38N2O2
reactant | HCl | Cl | ClH
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | methanol | 40 mL | CO | CH4O
product | (+)-1-(2-methoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)butyl]piperazine dihydrochloride | 13.4 g, 76% | Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCC(C)(C1=CC=CC=C1)C(=O)C1CCCCC1 | InChI=1S/C28H38N2O2.2ClH/c1-28(24-13-7-4-8-14-24,27(31)23-11-5-3-6-12-23)17-18-29-19-21-30(22-20-29)25-15-9-10-16-26(25)32-2;;/h4,7-10,13-16,23H,3,5-6,11-12,17-22H2,1-2H3;2*1H
